US04587538
2-(4'-dimethylaminophenyl)-3-phenyl-1,2,3,4-tetrahydroquinazolin-4-one
9.6 g (0.4 mol) Magnesium, 0.1 g iodine and 180 ml anhydrous (sodium dried) diethyl ether were placed in a 2 liter flask equipped with magnetic stirrer, condenser, dropping funnel containing 62.4 g (0.4 mol) ethyl iodide and drying (CaCl2) tubes. The ethyl iodide was added dropwise slowly until the reaction started. The magnetic stirrer was then started and the remaining ethyl iodide added over a period of about 3/4 hr. It was not found necessary to apply external cooling. Stirring was continued for a further 1/2 hr at ambient temperature to ensure completion of reaction. To the resulting solution 18.6 g (0.2 mol) of aniline were added dropwise over a period of about 1/2 hr. and stirring was again continued at ambient temperature for a further 1/2 hr. To this mixture 15.1 g (0.1 mol) methyl 2-aminobenzoate were added dropwise over a period of about 1/2 hr. The reaction mixture became relatively viscous (a quantity e.g. 80 ml anhydrous diethyl ether can be added to this mixture and the stirring can be supplemented by manual agitation). Stirring, or manual agitation, was continued for about one hour. A saturated aqueous solution of ammonium chloride was then added to quench the reaction, about 300 to 350 ml is usually adequate. This mixture was thoroughly stirred and the aqueous and organic phases were separated. The aqueous phase was washed with fresh diethyl ether (ca 100 ml.) and the ethereal solutions were combined, washed with water and dried over anhydrous magnesium sulphate. The intermediate, 2-amino-N-phenylbenzamide was isolated by evaporating off the ether solvent. This crude 2-amino-N-phenylbenzamide (21 g; 0.1 mol; 99% theory based on methyl 2-aminobenzoate) had a melting point of 95° C. 10.6 g (0.05 mol) of the 2-amino-N-phenylbenzamide and 7.46 g (0.05 mol) of 4-dimethylaminobenzaldehyde were heated under reflux in 100 ml ethanol for 5 hrs. The reaction mixture was allowed to cool and the product slowly crystallised out. The crystals were filtered off to give 13 g (0.038 mol; 76% theory) of a pale yellow solid. The title compound, recrystyallised from methanol, had a melting point of 195° C. The IR and NMR spectra of this purified product were taken, as described above. The compound was also imaged onto CF paper to give an intense yellow-gold colour. The UV-visible reflectance spectrum of this colouration was measured. The results of spectral analysis were as follows:

reactant | 2-amino-N-phenylbenzamide | 0.1 mol, 21 g | NC1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C13H12N2O
reactant | 2-amino-N-phenylbenzamide | 0.05 mol, 10.6 g | NC1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C13H12N2O
reactant | 4-dimethylaminobenzaldehyde | 0.05 mol, 7.46 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4'-dimethylaminophenyl)-3-phenyl-1,2,3,4-tetrahydroquinazolin-4-one | CN(C1=CC=C(C=C1)C1NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O)C | C22H21N3O
